US05587379
A mixture of 7.0 grams (0.028 mole) of 3-undecylphenol (prepared in Steps A-C of this Example) and 1.1 grams (0.028 mole) of 60% sodium hydride (in mineral oil) in 100 mL of toluene was stirred for about 20 minutes, and 4.2 grams (0.028 mole) of ethyl 2-chloro-3-oxopentanoate (prepared in Step D of this example) was added dropwise during about a 12 minute period. Upon completion of addition, the reaction mixture was heated to reflux, where it was stirred for about 6.5 hours. After this time, the reaction mixture was allowed to cool to ambient temperature, where it stood for about 16 hours. The reaction mixture was then taken up in 50 mL of water and 5 mL of acetic acid. The mixture was washed with an additional 50 mL of water and then with 25 mL of an aqueous solution saturated with sodium chloride. The organic layer was dried with sodium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 8.9 grams of ethyl 2-(3-undecylphenoxy)-3-oxopentanoate. The NMR spectrum was consistent with the proposed structure.

reactant | 3-undecylphenol | 0.028 mole, 7.0 grams | C(CCCCCCCCCC)C=1C=C(C=CC1)O | C17H28O
reactant | sodium hydride | 0.028 mole, 1.1 grams | [H-].[Na+]
reactant | ethyl 2-chloro-3-oxopentanoate | 0.028 mole, 4.2 grams | ClC(C(=O)OCC)C(CC)=O | C7H11ClO3
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
solvent | water | 50 mL | O | H2O
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | ethyl 2-(3-undecylphenoxy)-3-oxopentanoate | 8.9 grams | C(CCCCCCCCCC)C=1C=C(OC(C(=O)OCC)C(CC)=O)C=CC1 | C24H38O4
